US09056843B2
Intermediate 2a: 4-(N-hydroxycarbamimidoyl)-N-methyl-benzamide
4-Cyano-N-methylbenzamide (200 mg, 1.249 mmol), potassium carbonate (1035 mg, 7.49 mmol) and hydroxylamine hydrochloride (521 mg, 7.49 mmol) were dissolved in EtOH (12.6 mL). The reaction mixture was stirred at 80° C. for 25 h. The reaction mixture was diluted with EtOAc (50 mL), washed with water (10 mL), water phase extracted with EtOAc (20 mL). Combined organic phases were washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed to yield 227 mg of a white powdery solid. The crude material was used without further purification.

reactant | 4-Cyano-N-methylbenzamide | 1.249 mmol, 200 mg | C(#N)C1=CC=C(C(=O)NC)C=C1 | C9H8N2O
reactant | potassium carbonate | 7.49 mmol, 1035 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 7.49 mmol, 521 mg | Cl.NO
solvent | EtOH | 12.6 mL | CCO | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(N-hydroxycarbamimidoyl)-N-methyl-benzamide | 227 mg | ONC(=N)C1=CC=C(C(=O)NC)C=C1 | C9H11N3O2
